US05877191
Step A: (5R,6S,7S)-6-(4-fluorophenyl)-3-(5-cyano-2-isopropoxyphenyl)-1-oxaspiro[4.4]non-3-ene-7-carboxylic acid
(5R,6S,7S)-6-(4-Fluorophenyl)-3-(5-cyano-2-isopropoxyphenyl)-1-oxaspiro[4.4]non-3-ene-7-carboxylic acid methyl ester(128 mg, 0.294 mmol) was taken up in THF(2 mL) and methanol (2 mL) and treated with 2.5N NaOH (0.4 mL, 1.0 mmol) for 6 hours at room temperature. 2N Hydrochloric acid (5 mL) was then added, and the product extracted with ethyl acetate (2×30 mL). The combined extracts were washed with saturated brine solution, dried (MgSO4), and evaporated to afford the title compound; yield 124 mg.

reactant | (5R,6S,7S)-6-(4-Fluorophenyl)-3-(5-cyano-2-isopropoxyphenyl)-1-oxaspiro[4.4]non-3-ene-7-carboxylic acid methyl ester | 0.294 mmol, 128 mg | COC(=O)[C@@H]1[C@H]([C@]2(C=C(CO2)C2=C(C=CC(=C2)C#N)OC(C)C)CC1)C1=CC=C(C=C1)F | C26H26FNO4
reactant | methanol | 2 mL | CO | CH4O
reactant | NaOH | 1.0 mmol, 2.5N, 0.4 mL | [OH-].[Na+]
reactant | Hydrochloric acid | 2N, 5 mL | Cl | ClH
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (5R,6S,7S)-6-(4-fluorophenyl)-3-(5-cyano-2-isopropoxyphenyl)-1-oxaspiro[4.4]non-3-ene-7-carboxylic acid | FC1=CC=C(C=C1)[C@H]1[C@]2(C=C(CO2)C2=C(C=CC(=C2)C#N)OC(C)C)CC[C@@H]1C(=O)O | C25H24FNO4
